US04943573
1-[4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-1-oxobutyl]-4-(2-pyrimidinyl)piperazine
Reaction of N-(2-pyrimidinyl)piperazine and 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid (2 g) analogously to the procedure of Example 4 gave the title compound as the hydrated dihydrochloride salt; yield 3.67 g (100%), m.p. 184°-187° C.

reactant | N-(2-pyrimidinyl)piperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid | 2 g | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)O)N1 | C14H13N3O4
product | 1-[4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-1-oxobutyl]-4-(2-pyrimidinyl)piperazine | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)N2CCN(CC2)C2=NC=CC=N2)N1 | C22H23N7O3
